US04721711
3-Amino-2-(3-cyanopropyl)-4,6-diphenylpyridazinium bromide
2.47 g of 3-amino-4,6-diphenylpyridazine are dissolved in 5 ml of dimethylformamide, and 1.63 g of 4-bromobutyronitrile are added. The mixture is heated at 60° C. for 2 hours and left to cool. The crystals formed are filtered off and recrystallised from isopropanol. Melting point=202°-204° C.

reactant | 3-amino-4,6-diphenylpyridazine | 2.47 g | NC=1N=NC(=CC1C1=CC=CC=C1)C1=CC=CC=C1 | C16H13N3
reactant | 4-bromobutyronitrile | 1.63 g | BrCCCC#N | C4H6BrN
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Amino-2-(3-cyanopropyl)-4,6-diphenylpyridazinium bromide | [Br-].NC=1N([NH2+]C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)CCCC#N | InChI=1S/C20H20N4.BrH/c21-13-7-8-14-24-20(22)18(16-9-3-1-4-10-16)15-19(23-24)17-11-5-2-6-12-17;/h1-6,9-12,15,23H,7-8,14,22H2;1H
